US08835411B2
N-[7-(Cyanomethyl)-2-[[[(4-fluoro-3-methylphenyl)methyl]amino]carbonyl]-6,7,8,9-tetrahydro-3-hydroxy-4-oxo-7,10-ethanopyrimido[1,2-a]azepin-10(4H)-yl]-N,N′,N′-trimethyl-ethanediamide
A mixture of N-[2-[[[(4-fluoro-3-methylphenyl)methyl]amino]carbonyl]-6,7,8,9-tetrahydro-3-hydroxy-7-[[[(4-methylphenyl)sulfonyl]oxy]methyl]-4-oxo-7,10-ethanopyrimido[1,2-a]azepin-10(4H)-yl]-N,N′,N′-trimethyl-ethanediamide, Intermediate 28, (50 mg, 0.073 mmol) and KCN (47.6 mg, 0.731 mmol) in DMA (1.5 mL) was heated at 160° C. in a sealed tube for 3 h. The mixture was then cooled and the product purified by preparative HPLC to afford the title compound (8 mg, 0.014 mmol, 19.30% yield) as off-white solid. 1HNMR (500 MHz, CDCl3) δ: 11.97 (1H, br. s.), 9.61 (1H, br. s.), 7.18-7.26 (2H, m), 6.94 (1H, t, J=9.00 Hz), 4.56-4.68 (2H, m), 4.41-4.50 (1H, m), 3.61 (1H, d, J=15.87 Hz), 3.41-3.52 (1H, m), 3.05 (3H, s), 3.03 (3H, s), 3.01 (3H, s), 2.50 (2H, d, J=2.75 Hz), 2.27 (3H, d, J=1.83 Hz), 2.15-2.21 (3H, m), 1.96-2.05 (2H, m), 1.72-1.81 (1H, m), 1.57-1.69 (1H, m). LCMS (M+H)=539.4.

reactant | N-[2-[[[(4-fluoro-3-methylphenyl)methyl]amino]carbonyl]-6,7,8,9-tetrahydro-3-hydroxy-7-[[[(4-methylphenyl)sulfonyl]oxy]methyl]-4-oxo-7,10-ethanopyrimido[1,2-a]azepin-10(4H)-yl]-N,N′,N′-trimethyl-ethanediamide | FC1=C(C=C(C=C1)CNC(=O)C=1N=C2N(CC3(CCC2(CC3)N(C(C(=O)N(C)C)=O)C)COS(=O)(=O)C3=CC=C(C=C3)C)C(C1O)=O)C | C33H38FN5O8S
reactant | KCN | 0.731 mmol, 47.6 mg | [C-]#N.[K+]
solvent | DMA | 1.5 mL | CC(=O)N(C)C | C4H9NO
product | N-[7-(Cyanomethyl)-2-[[[(4-fluoro-3-methylphenyl)methyl]amino]carbonyl]-6,7,8,9-tetrahydro-3-hydroxy-4-oxo-7,10-ethanopyrimido[1,2-a]azepin-10(4H)-yl]-N,N′,N′-trimethyl-ethanediamide | 0.014 mmol, 8 mg, 19.30% yield | C(#N)CC12CCC(C=3N(C1)C(C(=C(N3)C(=O)NCC3=CC(=C(C=C3)F)C)O)=O)(CC2)N(C(C(=O)N(C)C)=O)C | C27H31FN6O5
